US09085575B2
55 mg (1 mmol) of iron is added to a solution of 87 mg (0.2 mmol) of ethyl 3-amino-6-(4-methoxyphenyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate dissolved in 2 ml of acetic acid. The reaction medium is carried at 90° C. for 5 hours, and then the precipitate obtained is filtered on Dicalite and rinsed with a 98:2 dichloroethane/methanol mixture. The filtrate is concentrated to yield 45 mg (56%) of N-(5-(4-methoxyphenyl)-6-oxo-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-1-yl)acetamide in the form of a yellow solid.

reactant | ethyl 3-amino-6-(4-methoxyphenyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.2 mmol, 87 mg | NC1=NNC2=NC(=C(C(=C21)C2=C(C=CC=C2)[N+](=O)[O-])C(=O)OCC)C2=CC=C(C=C2)OC | C22H19N5O5
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1 mmol, 55 mg | [Fe] | Fe
product | N-(5-(4-methoxyphenyl)-6-oxo-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-1-yl)acetamide | 45 mg, 56% | COC1=CC=C(C=C1)C1=NC2=C(C=3C4=C(NC(C13)=O)C=CC=C4)C(=NN2)NC(C)=O | C22H17N5O3
